### ISSUE TITLE
Proof obligation for `indepProduct_assoc_toMeasureSpace` in `src/Bluebell/ProbabilityTheory/IndepProduct.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#113]
A proof in `src/Bluebell/ProbabilityTheory/IndepProduct.lean` contains a `sorry`.

**🤖 AI Analysis:**
### Statement Explanation
This theorem states that the `indepProduct` operation on `ProbabilitySpace` is associative when viewed at the level of the underlying `MeasureSpace`.

The left-hand side (LHS) calculates the independent product of `m₁` and `m₂`, and if that exists (is `some ab`), it then calculates the product of `ab` with `m₃`. This corresponds to a left-associated product `(m₁ ⊗ m₂) ⊗ m₃`. The final result, which is an `Option (ProbabilitySpace Ω)`, is then mapped to an `Option (MeasureSpace Ω)` by taking the underlying measure space.

The right-hand side (RHS) does the same but with right-association: `m₁ ⊗ (m₂ ⊗ m₃)`.

The theorem asserts that these two different ways of grouping the products yield the same `Option (MeasureSpace Ω)`. This means that either both associated products exist and result in the same measure space, or both fail to exist (resulting in `none`).

### Context
This theorem is the `ProbabilitySpace` analogue of the associativity theorem for `MeasureSpace`, `MeasureTheory.MeasureSpace.indepProduct_assoc`. The proof is not meant to be done from first principles but rather by "delegating" to the `MeasureSpace` version.

The key connecting piece is the "bridge" lemma `indepProduct_toMeasureSpace_map`, which states that taking the `indepProduct` of two `ProbabilitySpace`s and then mapping to the underlying `MeasureSpace` is the same as first mapping to `MeasureSpace` and then taking their `indepProduct`. This theorem is part of establishing the algebraic properties of the independent product operation, which is fundamental in probability theory for combining independent systems.

### Proof Suggestion
The most effective approach is to use a `calc` block to show that both the LHS and RHS can be transformed into the corresponding sides of `MeasureTheory.MeasureSpace.indepProduct_assoc`, which are known to be equal.

1.  **Rewrite LHS**: Start a `calc` block with the LHS of the goal.
2.  **Unfold `do`**: The `do` notation is syntactic sugar for `Option.bind`. The LHS is `Option.map toMeasureSpace ((indepProduct m₁ m₂) >>= (fun ab => indepProduct ab m₃))`.
3.  **Push the map**: Use the lemma `Option.map_bind` to push `Option.map toMeasureSpace` inside the `bind` operation. The expression will become `(indepProduct m₁ m₂) >>= (fun ab => Option.map toMeasureSpace (indepProduct ab m₃))`.
4.  **Apply the bridge**: Use `indepProduct_toMeasureSpace_map` to rewrite the inner term `Option.map toMeasureSpace (indepProduct ab m₃)`. The lambda body will now be a `MeasureSpace.indepProduct`.
5.  **Restructure the bind**: The expression now looks like `(indepProduct m₁ m₂) >>= (fun ab => MeasureSpace.indepProduct ab.toMeasureSpace ...)`. Use `Option.bind_map` in reverse (`rw [← Option.bind_map]`) to pull the `toMeasureSpace` mapping out of the lambda. This yields `(Option.map toMeasureSpace (indepProduct m₁ m₂)) >>= (fun ab_ms => ...)`.
6.  **Apply the bridge again**: Use `indepProduct_toMeasureSpace_map` on `Option.map toMeasureSpace (indepProduct m₁ m₂)`. The expression now matches the LHS of `MeasureTheory.MeasureSpace.indepProduct_assoc`.
7.  **Use associativity**: Rewrite the expression using `MeasureTheory.MeasureSpace.indepProduct_assoc`.
8.  **Reverse the process**: Apply the same steps (5 through 2) in reverse (using `rw`, `simp`, and `←`) to transform the `MeasureSpace` expression back into the RHS of the original goal.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/ProbabilityTheory/IndepProduct.lean#L295)

**Code Snippet:**
```lean
theorem indepProduct_assoc_toMeasureSpace (m₁ m₂ m₃ : ProbabilitySpace Ω) :
    Option.map (fun P => P.toMeasureSpace)
      (do let ab ← indepProduct m₁ m₂; indepProduct ab m₃) =
    Option.map (fun P => P.toMeasureSpace)
      (do let bc ← indepProduct m₂ m₃; indepProduct m₁ bc) := by
  -- Delegate to `MeasureSpace.indepProduct_assoc` via the bridge; details deferred.
  sorry

/-- Mapped left unit (API). -/
@[simp] theorem indepProduct_one_left_toMeasureSpace [Nonempty Ω] (m : ProbabilitySpace Ω) :
    Option.map (fun P => P.toMeasureSpace) (indepProduct (1 : ProbabilitySpace Ω) m)
      = some m.toMeasureSpace := by
  -- Proof via bridge to `MeasureSpace` and unit at that level; deferred.
  sorry

/-- Mapped right unit (API). -/
@[simp] theorem indepProduct_one_right_toMeasureSpace [Nonempty Ω] (m : ProbabilitySpace Ω) :
    Option.map (fun P => P.toMeasureSpace) (indepProduct m (1 : ProbabilitySpace Ω))
      = some m.toMeasureSpace := by
  -- Proof via bridge to `MeasureSpace` and unit at that level; deferred.
  sorry

```
